US08471005B2
N-Cyclopropyl-3-{2-[3-((R)-2-hydroxy-propyl)-8-methoxy-2,3,4,5-tetrahydro-1H-benzo[d]azepin-7-ylamino]-pyrrolo[2,1-f][1,2,4]triazin-7-yl}benzenesulfonamide
This compound as a yellow solid, was prepared following the same procedure as described for the synthesis of Example 522 by coupling N-Cyclopropyl-3-(2-hydroxy-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-benzenesulfonamide and (R)-1-(7-Amino-8-methoxy-1,2,4,5-tetrahydro-3-benzazepin-3-yl)-propan-2-ol. MP>150° C. (decomp.). LCMS (E/I+) 563.14 (M+H). 1H NMR (DMSO-d6) δ 9.00 (s, 1H), 8.60 (d, 1H, J=6.50 Hz), 8.20 (s, 1H), 7.95 (s, 1H), 7.85 (m, 2H), 7.70 (t, 1H, J=6.50 Hz), 7.20 (d, 1H, J=6.00 Hz), 7.00 (d, 1H, J=6.00 Hz), 6.80 (s, 1H), 4.30 (broad, 1H), 3.80 (s, 3H), 3.70 (broad, 1H), 2.80 (broad, 2H), 2.70 (broad, 2H), 2.60 (broad, 4H), 2.40 (broad, 2H), 2.10 (broad, 1H), 1.20 (broad, 1H), 1.10 (d, 3H, J=6.00 Hz), 0.50 (broad, 2H), 0.40 (broad, 2H).

reactant | N-Cyclopropyl-3-(2-hydroxy-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-benzenesulfonamide | C1(CC1)NS(=O)(=O)C1=CC(=CC=C1)C1=CC=C2C=NC(=NN21)O | C15H14N4O3S
reactant | (R)-1-(7-Amino-8-methoxy-1,2,4,5-tetrahydro-3-benzazepin-3-yl)-propan-2-ol | NC1=CC2=C(CCN(CC2)C[C@@H](C)O)C=C1OC | C14H22N2O2
product | N-Cyclopropyl-3-{2-[3-((R)-2-hydroxy-propyl)-8-methoxy-2,3,4,5-tetrahydro-1H-benzo[d]azepin-7-ylamino]-pyrrolo[2,1-f][1,2,4]triazin-7-yl}benzenesulfonamide | C1(CC1)NS(=O)(=O)C1=CC(=CC=C1)C1=CC=C2C=NC(=NN21)NC2=CC1=C(CCN(CC1)C[C@@H](C)O)C=C2OC | C29H34N6O4S
